* C:\users\sam\My Documents\ELEC40004\404CircuitSim\test\SpiceNetlists\Draft1.asc
V1 N001 0 SINE(0 5 1k)
D1 N001 N002 D
C1 N002 0 10n
R1 N002 0 1k
D2 N002 N003 D
R2 N003 0 1k
.model D D
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 0.01m
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 0.01m
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 0.01m
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 0.01m
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 0.01m
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 0.01m
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 0.01m
.backanno
.end
